US07078414B2
c) 3-Carboxy-1-(isoquinol-4-yl)-1H-pyrrole
0.63 g (15.02 mmol) of lithium hydroxide monohydrate and 20 mL of water are added to a solution, at a temperature in the region of 22° C., of 0.95 g (376 mmol) of 3-methoxycarbonyl-1-(isoquinol-4-yl)-1H-pyrrole in 20 mL of tetrahydrofuran. After stirring at the reflux point of the solvent for 15 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) and the residue is dissolved in water. The solution is extracted with ethyl acetate and the organic phase is discarded. The aqueous phase is adjusted to pH 6 with N hydrochloric acid and extracted with ethyl acetate. The organic phase is washed successively with water and with saturated aqueous sodium chloride solution and then it is dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa), resulting in 0.75 g of 3-carboxy-1-(isoquinol-4-yl)-1H-pyrrole in the form of a beige-coloured solid. IR spectrum (KBr): 3153, 2518, 1855, 1690, 1495, 1276, 1188, 933, 808, 783, 757, 712 and 675 cm−1.

reactant | lithium hydroxide monohydrate | 15.02 mmol, 0.63 g | O.[OH-].[Li+]
reactant | water | 20 mL | O | H2O
reactant | 3-methoxycarbonyl-1-(isoquinol-4-yl)-1H-pyrrole | 376 mmol, 0.95 g | COC(=O)C1=CN(C=C1)C1=CN=CC2=CC=CC=C12 | C15H12N2O2
reactant | KBr | [K+].[Br-]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-Carboxy-1-(isoquinol-4-yl)-1H-pyrrole | C(=O)(O)C1=CN(C=C1)C1=CN=CC2=CC=CC=C12 | C14H10N2O2
